US09376394B2
4-{5-[Bis-(2-chloroethyl)amino]-1-methyl-1H-benzimidazol-2-yl}-butyric acid isopropyl ester (3 g) is charged into a round bottom flask and 50% hydrochloric acid solution (21 mL) is slowly added. The mixture is heated to 35-40° C., maintained for about 90 minutes, and concentrated under vacuum at about 55-58° C., to give a viscous mass. Warm water (12 mL, 55-60° C.) is added and the mixture is stirred for about 1 hour. The obtained solid is collected by filtration, washed with water (3 mL), and dried under vacuum at 45-50° C. for 4 hours to give bendamustine hydrochloride. Yield: 2.2 g (75%).

reactant | 4-{5-[Bis-(2-chloroethyl)amino]-1-methyl-1H-benzimidazol-2-yl}-butyric acid isopropyl ester | 3 g | C(C)(C)OC(CCCC1=NC2=C(N1C)C=CC(=C2)N(CCCl)CCCl)=O | C19H27Cl2N3O2
reactant | hydrochloric acid | 21 mL | Cl | ClH
solvent | water | 12 mL | O | H2O
product | bendamustine hydrochloride | CN1C=2C=CC(=CC2N=C1CCCC(=O)O)N(CCCl)CCCl.Cl | InChI=1S/C16H21Cl2N3O2.ClH/c1-20-14-6-5-12(21(9-7-17)10-8-18)11-13(14)19-15(20)3-2-4-16(22)23;/h5-6,11H,2-4,7-10H2,1H3,(H,22,23);1H
